US06720332B2
b) Dimethylaminomethylidene-1,3-dihydro-2H-pyrrolo[3,2-f]quinoline-2-one
A mixture of 3-H-pyrrolo[3,2-f]quinoline-2-one (13 mmol) and dimethylformamide di-t-butyl acetal (15 mmol) in DMF was stirred at room temperature for 3 h. Ethyl acetate (25 mL) was added and the resulting solid was collected by filtration and allowed to air dry. The desired compound was obtained (70%) and used directly in the next step.

reactant | 3-H-pyrrolo[3,2-f]quinoline-2-one | 13 mmol | C1C(NC=2C1=C1C=CC=NC1=CC2)=O | C11H8N2O
reactant | dimethylformamide di-t-butyl acetal | 15 mmol | C(C)(C)(C)OC(N(C)C)OC(C)(C)C | C11H25NO2
reactant | Ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
solvent | DMF | CN(C)C=O | C3H7NO
product | Dimethylaminomethylidene-1,3-dihydro-2H-pyrrolo[3,2-f]quinoline-2-one | CN(C)C=C1C(NC=2C1=C1C=CC=NC1=CC2)=O | C14H13N3O
